US06605323B1
A solution of 232 mmol of 2-bromo-6-fluoropyridine in 400 ml of toluene is admixed with 290 mmol of 4-nonylphenylboronic acid, 200 ml of ethanol, a solution of 464 mmol of sodium carbonate in 200 ml of water and 2.3 mmol of tetrakis(triphenylphosphine)palladium(0) at room temperature. The mixture is heated at the boil for 3.5 h. After cooling, the phases are separated, the aqueous phase is extracted with dichloromethane and the combined organic phases are dried with magnesium sulfate. The solvents are removed under reduced pressure and the raw product is purified by column chromatography over silica gel 60 using n-heptane/dichloro-methane 1:1 as eluent and recrystallization from acetonitrile/acetone 5:1, giving 63 g (91%) of 2-fluoro-6-(4-nonylphenyl)pyridine.

reactant | 2-bromo-6-fluoropyridine | 232 mmol | BrC1=NC(=CC=C1)F | C5H3BrFN
reactant | 4-nonylphenylboronic acid | 290 mmol | C(CCCCCCCC)C1=CC=C(C=C1)B(O)O | C15H25BO2
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | sodium carbonate | 464 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.3 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-6-(4-nonylphenyl)pyridine | 63 g, 91% | FC1=NC(=CC=C1)C1=CC=C(C=C1)CCCCCCCCC | C20H26FN
